US06703391B2
9-Ethyl-1,4,7,8,9,10-hexahydro-6-nitro-pyrido[3,4-f]quinoxaline-2,3-dione
A solution of 9-ethyl-1,4,7,8,9,10-hexahydro-pyrido[3,4-f]quinoxaline-2,3-dione (0.61 g, 2.16 mmol) in 20 mL of concentrated sulfuric acid was treated with a solution of potassium nitrate (0.25 g, 2.47 mmol) in 2 mL concentrated sulfuric acid. After stirring for 3 hours at room temperature, the reaction mixture was poured onto ice and cooled in an isopropyl alcohol/dry ice bath. Ammonium hydroxide was added to adjust the pH to 8.9, and the yellow solid was collected by filtration (0.59 g, 94% yield).

reactant | 9-ethyl-1,4,7,8,9,10-hexahydro-pyrido[3,4-f]quinoxaline-2,3-dione | 2.16 mmol, 0.61 g | C(C)N1CC=2C=3NC(C(NC3C=CC2CC1)=O)=O | C13H15N3O2
reactant | potassium nitrate | 2.47 mmol, 0.25 g | [N+](=O)([O-])[O-].[K+]
reactant | Ammonium hydroxide | [OH-].[NH4+]
solvent | sulfuric acid | 20 mL | S(O)(O)(=O)=O | H2O4S
solvent | sulfuric acid | 2 mL | S(O)(O)(=O)=O | H2O4S
product | 9-Ethyl-1,4,7,8,9,10-hexahydro-6-nitro-pyrido[3,4-f]quinoxaline-2,3-dione | 94% yield | C(C)N1CC=2C=3NC(C(NC3C=C(C2CC1)[N+](=O)[O-])=O)=O | C13H14N4O4
